US09388176B2
4-(2-Methylsulfanyl-5,7-dihydro-pyrrolo[3,4-d]pyrimidin-6-yl)-pyridine-2-carboxylic acid (3-isopropyl-phenyl)-amide
In a manner similar to that describe in Example 126, 2-(methylthio)-6,7-dihydro-5H-pyrrolo[3,4-d]pyrimidine and 4-bromo-N-(3-isopropylphenyl)picolinamide were converted to the title compound.

reactant | 2-(methylthio)-6,7-dihydro-5H-pyrrolo[3,4-d]pyrimidine | CSC=1N=CC2=C(N1)CNC2 | C7H9N3S
reactant | 4-bromo-N-(3-isopropylphenyl)picolinamide | BrC1=CC(=NC=C1)C(=O)NC1=CC(=CC=C1)C(C)C | C15H15BrN2O
product | 4-(2-Methylsulfanyl-5,7-dihydro-pyrrolo[3,4-d]pyrimidin-6-yl)-pyridine-2-carboxylic acid (3-isopropyl-phenyl)-amide | C(C)(C)C=1C=C(C=CC1)NC(=O)C1=NC=CC(=C1)N1CC=2N=C(N=CC2C1)SC | C22H23N5OS
